US04283532
To 10 g (0.038 mole) of o-iodophenylacetic acid was added 50 ml of a solution of 5.7 g (0.048 mole) of thionyl chloride in anhydrous benzene, and the mixture was refluxed for 2 hours under agitation. Then, the solvent and unreacted thionyl chloride were removed by distillation under reduced pressure below 40° C. and the residue was subjected to distillation under reduced pressure to obtain 9.6 g of o-iodophenylacetyl chloride as a light yellow oily product having a boiling point of 153° to 156° C. under 8 mmHg in a yield of 90%.

reactant | o-iodophenylacetic acid | 0.038 mole, 10 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | thionyl chloride | 0.048 mole, 5.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-iodophenylacetyl chloride | 9.6 g, yield of 90% | IC1=C(C=CC=C1)CC(=O)Cl | C8H6ClIO
